US07704996B2
Benzylsulfonylchloride (0.50 mmol) is added to a solution of 4-(2-{5-amino-2-cyano-6-[(spiro[3.5]non-7-ylmethyl)amino]pyrimidin-4-yloxy}ethyl)piperidine-1-carboxylic acid t-butyl ester (167 mg) and pyridine (0.66 mmol) in CH2Cl2 (3 mL) are added at 0° C. After stirring at room temperature for 1 h, benzylsulfonylchloride (0.50 mmol), pyridine (0.66 mmol) and DMAP (catalytic amount) are added to the reaction mixture again. The reaction mixture is stirred at room temperature for 1 h and diluted with AcOEt. The organic layer is washed with H2O and evaporated in vacuo. The resulting residue is purified by silica gel column chromatography to give 4-(2-{2-cyano-5-phenylmethanesulfonylamino-6-[(spiro[3.5]non-7-ylmethyl)amino]pyrimidin-4-yloxy}ethyl)piperidine-1-carboxylic acid tert-butyl ester.

reactant | Benzylsulfonylchloride | 0.50 mmol | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 4-(2-{5-amino-2-cyano-6-[(spiro[3.5]non-7-ylmethyl)amino]pyrimidin-4-yloxy}ethyl)piperidine-1-carboxylic acid t-butyl ester | 167 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=NC(=NC(=C1N)NCC1CCC2(CCC2)CC1)C#N | C27H42N6O3
reactant | pyridine | 0.66 mmol | N1=CC=CC=C1 | C5H5N
reactant | benzylsulfonylchloride | 0.50 mmol | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | pyridine | 0.66 mmol | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4-(2-{2-cyano-5-phenylmethanesulfonylamino-6-[(spiro[3.5]non-7-ylmethyl)amino]pyrimidin-4-yloxy}ethyl)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=NC(=NC(=C1NS(=O)(=O)CC1=CC=CC=C1)NCC1CCC2(CCC2)CC1)C#N | C34H48N6O5S
